US09126981B2
Synthesis of 2,2-diethoxy-N-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)ethanamine (Compound IX-25)
According to the procedure described in the synthesis method of Compound IX-5 with the modification that the reaction was carried out overnight, 2,2-diethoxyethanamine (5.82 ml, 40 mmol) was reacted with 2-(2-bromoethoxy)tetrahydro-2H-pyran (3.03 ml, 20 mmol) and the obtained residue was purified by Büch silica gel column chromatography (eluent: chloroform:methanol=100:0 to 98:2) to obtain the title compound (1.59 g, 30%).

reactant | 2,2-diethoxyethanamine | 40 mmol, 5.82 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 20 mmol, 3.03 ml | BrCCOC1OCCCC1 | C7H13BrO2
product | 2,2-diethoxy-N-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)ethanamine | 1.59 g, 30% | C(C)OC(CNCCOC1OCCCC1)OCC | C13H27NO4
